US04735951
Using the procedure of Example 5, 8 g of 4-hydroxy-2-(1-hydroxypropyl)-N-(2-thiazolyl)-8-trifluoromethyl-3-quinoline carboxamide and 2 ml of butyric acid were reacted to obtain 7.8 g of 1-[4-hydroxy-3-[(2-thiazolylamino)-carboxyl]-8-trifluoromethyl)-2-quinolinyl]-propyl butanoate melting at 203° C.

reactant | 4-hydroxy-2-(1-hydroxypropyl)-N-(2-thiazolyl)-8-trifluoromethyl-3-quinoline carboxamide | 8 g | OC1=C(C(=NC2=C(C=CC=C12)C(F)(F)F)C(CC)O)C(=O)NC=1SC=CN1 | C17H14F3N3O3S
reactant | butyric acid | 2 ml | C(CCC)(=O)O | C4H8O2
product | propyl butanoate | C(CCC)(=O)OCCC | C7H14O2
